US07427612B2
3-Fluoro-4-[4-(2-iodo-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile
Example CL was prepared in analogy to Example 123 from 2-Iodo-5-methanesulfonyl-benzoic acid (example BQ) and 3-Fluoro-4-piperazin-1-yl-benzonitrile (WO9625414). MS (m/e): 514.0 (M+H+, 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | 3-Fluoro-4-piperazin-1-yl-benzonitrile | FC=1C=C(C#N)C=CC1N1CCNCC1 | C11H12FN3
product | 3-Fluoro-4-[4-(2-iodo-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile | FC=1C=C(C#N)C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)I)=O | C19H17FIN3O3S
